US07816522B2
(41b) 6-bromo-5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxine
After adding 830 mg of 1,2-dibromoethane and 1.4 g of potassium carbonate to a solution of 880 mg of 4-bromo-3-fluoro-6-methoxybenzene-1,2-diol in 10 ml of DMF, the mixture was stirred at 80° C. for 6 hours. Next, 1N hydrochloric acid was added to the reaction mixture and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate-heptane) to give the title compound (549 mg) as a solid.

reactant | 1,2-dibromoethane | 830 mg | BrCCBr | C2H4Br2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-3-fluoro-6-methoxybenzene-1,2-diol | 880 mg | BrC=1C(=C(C(=C(C1)OC)O)O)F | C7H6BrFO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-bromo-5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxine | 549 mg | BrC1=C(C2=C(OCCO2)C(=C1)OC)F | C9H8BrFO3
